US07858646B2
Synthesis of 2-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-nicotinic acid
Heat a mixture of 2-chloro-nicotinic acid (132 mg, 0.835 mmol) and 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone (250 mg, 0.835 mmol) to 130° C. After 18 hours, cool to ambient temperature and purify via flash chromatography (ethyl acetate:hexanes) to give a residue which was further purified by reverse phase chromatography (methanol:acetic acid:water) to yield the title product as a yellow solid (32 mg, 9%): 1H NMR (DMSO-d6) δ 0.88 (t, 3H), 1.51 (sextet, 2H), 2.57 (s, 3H), 2.63 (t, 2H), 5.27 (s, 2H), 6.73 (d, 1H), 6.87 (dd, 1H), 7.06 (d, 1H), 7.34 (t, 1H), 7.67 (d, 1H), 7.81 (d, 1H), 7.88 (s, 1H), 8.26 (dd, 1H), 8.36 (dd, 1H), 10.66 (bs, 1H), 12.85 (s, 1H), 13.63 (bs, 1H); MS (esi negative) m/z (rel intensity) 419 (100).

reactant | 2-chloro-nicotinic acid | 0.835 mmol, 132 mg | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 1-[4-(3-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 0.835 mmol, 250 mg | NC=1C=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=CC1 | C18H21NO3
product | 2-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-nicotinic acid | 32 mg, 9% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NC2=C(C(=O)O)C=CC=N2)C=C1)CCC)O | C24H24N2O5
